US07994185B2
Step A: 1,1-Dimethylethyl 4-(aminocarbonothioyl)-1-piperazinecarboxylate
1,1-Dimethylethyl 1-piperazinecarboxylate (24 g, 129 mmol) in THF (1 L) was treated with 4 N HCl in dioxane (32.2 mL, 129 mmol)), and thiocyanate (12.52 g, 129 mmol) dissolved in minimal amount of water was added. After stirring at rt overnight, the volatiles were removed under reduced pressure. The residue was taken up in MeOH and filtered to remove inorganic salts and the solvent removed in vacuo and the cycle was repeated 3 more times. Then twice taken up in DCM and filtered and concentrated to give the title compound of Step A (29 g, 92% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 8.74 (br. s., 2H), 3.50 (br. s., 4H), 3.07 (t, J=5.0 Hz, 4H), 1.40 (s, 9H).

reactant | 1,1-Dimethylethyl 1-piperazinecarboxylate | 129 mmol, 24 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | HCl | 4 N | Cl | ClH
reactant | dioxane | 129 mmol, 32.2 mL | O1CCOCC1 | C4H8O2
reactant | thiocyanate | 129 mmol, 12.52 g | [S-]C#N
solvent | THF | 1 L | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 1,1-Dimethylethyl 4-(aminocarbonothioyl)-1-piperazinecarboxylate | 29 g, 92% yield | NC(=S)N1CCN(CC1)C(=O)OC(C)(C)C | C10H19N3O2S
